US07968573B2
A mixture of 1.05 g of 6-chloro-8-methyl-1H-benzo[d]-1,3-oxazine-2,4-dione, 0.46 g of methyl carbazate and 20 ml of methanol was heated to reflux for 3 hours. After the reaction mixture was allowed to cool to around room temperature, water was poured thereto and the mixture was extracted with ethyl acetate three times. The resulting organic layer was concentrated under reduced pressure, and the residue was washed with toluene to obtain 0.77 g of N-(2-amino-5-chloro-3-methylbenzoyl)-N′-methoxycarbonylhydrazine of the formula:

reactant | 6-chloro-8-methyl-1H-benzo[d]-1,3-oxazine-2,4-dione | 1.05 g | ClC1=CC2=C(NC(OC2=O)=O)C(=C1)C | C9H6ClNO3
reactant | methyl carbazate | 0.46 g | C(NN)(=O)OC | C2H6N2O2
reactant | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
product | N-(2-amino-5-chloro-3-methylbenzoyl)-N′-methoxycarbonylhydrazine | 0.77 g | NC1=C(C(=O)NNC(=O)OC)C=C(C=C1C)Cl | C10H12ClN3O3
